US07399780B2
1-[(6-Chloro-1-oxidopyridin-3-yl)methyl]-4-phenylpiperazine
PS-Diisopropylethylamine (3.54 mmol/g, 0.4 g, 1.40 mmol) was washed with tetrahydrofuran and 2-chloro-5-(chloromethyl)pyridine 1-oxide (100 mg, 0.56 mmol; described in: Tilley, J. W. et al, J. Heterocyclic Chem. 1979, 16, 333) was added followed by tetrahydrofuran (1 mL). A solution of 1-phenylpiperazine (182 mg, 1.12 mmol) in tetrahydrofuran (1 mL) and a catalytic amount of potassium iodide were added, and the mixture was gently stirred (100 r/min) at room temperature for one week. PS-Isocyanate (1.76 mmol/g, 0.80 g, 1.40 mmol) was washed with tetrahydrofuran and added to the mixture followed by additional tetrahydrofuran (1 mL). The suspension was gently stirred (100 r/min) at room temperature for 19 h. The suspension was filtered (20 μm polyethylene filter), and the resins were washed with methylene chloride, tetrahydrofuran, and ethanol. Volatiles were removed in vacuo, and the residue was suspended in a 1:1-mixture of tetrahydrofuran and ethanol (8 mL) followed by the addition of N-ethyl-N,N-diisopropylamine (50 μL, 0.28 mmol). The mixture was added to PS-Thiophenol (1.35 mmol/g, 0.21 g, 0.28 mmol), and MP-Carbonate (3.20 mmol/g, 90 mg, 0.28 mmol), both pre-swelled in tetrahydrofuran. The mixture was stirred (100 r/min) at room temperature overnight followed by filtration. The resins were washed with methylene chloride, tetrahydrofuran, and ethanol, and the filtrate was concentrated in vacuo to give 141 mg (83% yield) of the title compound: 1H NMR (CDCl3, 400 MHz) δ 8.42 (s, 1 H), 7.45 (d, J=8 Hz, 1 H), 7.30-7.26 (m, 2 H), 7.25-7.21 (m, 1 H), 6.95-6.90 (m, 2 H), 6.89-6.85 (m, 1 H), 3.51 (s, 2 H), 3.22-3.18 (m, 4 H), 2.65-2.60 (m, 4 H); MS (ES) m/z 304 (M++1).

reactant | Diisopropylethylamine | 1.40 mmol, 0.4 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-chloro-5-(chloromethyl)pyridine 1-oxide | 0.56 mmol, 100 mg | ClC1=[N+](C=C(C=C1)CCl)[O-] | C6H5Cl2NO
reactant | 1-phenylpiperazine | 1.12 mmol, 182 mg | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | potassium iodide | [I-].[K+]
reactant | Isocyanate | 1.40 mmol, 0.80 g | [N-]=C=O
reactant | N-ethyl-N,N-diisopropylamine | 0.28 mmol, 50 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | Thiophenol | 0.28 mmol, 0.21 g | C1(=CC=CC=C1)S | C6H6S
reactant | Carbonate | 0.28 mmol, 90 mg | C([O-])([O-])=O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | 1-[(6-Chloro-1-oxidopyridin-3-yl)methyl]-4-phenylpiperazine | 141 mg, 83% yield | ClC1=CC=C(C=[N+]1[O-])CN1CCN(CC1)C1=CC=CC=C1 | C16H18ClN3O
